US08536165B2
A. 5-Bromo-2-(2,6-difluoro-4-methoxyphenyl)pyrimidine
In a three neck round bottle flask, to a mixture of 1,3-difluoro-5-methoxybenzene (8.39 mmol, 0.98 ml) in THF (40 ml) at −78° C. under argon atmosphere, a solution of n-BuLi (9.13 mmol, 3.65 ml) in THF (2.5M) was added. The mixture was stirred at −78° C. for 30 minutes and then it was heated to −50° C. A solution of ZnCl2 (9.13 mmol, 18.3 ml) in THF (0.5M) was added dropwise and the mixture was stirred at this temperature for 20 minutes. A solution of 5-bromo-2-iodopyrimidine (7.02 mmol, 2.0 g) in THF (5 ml) and Pd(PPh3)4 (0.70 mmol, 0.81 g) were added respectively and the crude mixture was heated at 40° C. overnight. The solvent was evaporated and the crude mixture was purified over SiO2 eluting with mixtures of hexane/ethyl acetate affording 0.89 g (39% of yield) of the expected product.

reactant | 1,3-difluoro-5-methoxybenzene | 8.39 mmol, 0.98 ml | FC1=CC(=CC(=C1)OC)F | C7H6F2O
reactant | n-BuLi | 9.13 mmol, 3.65 ml | [Li]CCCC
reactant | 5-bromo-2-iodopyrimidine | 7.02 mmol, 2.0 g | BrC=1C=NC(=NC1)I | C4H2BrIN2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 2.5M | C1CCOC1 | C4H8O
solvent | THF | 0.5M | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 9.13 mmol, 18.3 ml | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 0.70 mmol, 0.81 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-Bromo-2-(2,6-difluoro-4-methoxyphenyl)pyrimidine | BrC=1C=NC(=NC1)C1=C(C=C(C=C1F)OC)F | C11H7BrF2N2O
